US07576089B2
1-[4-(Trifluoromethyl)pyridin-2-yl]-1H-imidazole-4-carboxylic Acid
To a solution of methyl 1-[4-(trifluoromethyl)pyridin-2-yl]-1H-imidazole-4-carboxylate (120 mg, 0.44 mmol) in methanol (2.5 mL) was added a 5 M solution of sodium hydroxide in water (2.5 mL) and the mixture was stirred at room temperature for 1 h. After removal of methanol under vacuum, the resulting solution was acidified with concentrated HCl (pH=5) and concentrated. The residue was taken up in acetone and insolubles were filtered off. The filtrate was evaporated to give the title compound (120 mg). MS (M+H) 258.2.

reactant | methyl 1-[4-(trifluoromethyl)pyridin-2-yl]-1H-imidazole-4-carboxylate | 0.44 mmol, 120 mg | FC(C1=CC(=NC=C1)N1C=NC(=C1)C(=O)OC)(F)F | C11H8F3N3O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | 2.5 mL | CO | CH4O
solvent | water | 2.5 mL | O | H2O
product | 1-[4-(Trifluoromethyl)pyridin-2-yl]-1H-imidazole-4-carboxylic Acid | 120 mg | FC(C1=CC(=NC=C1)N1C=NC(=C1)C(=O)O)(F)F | C10H6F3N3O2
